US05866560
17.0 g of copper(II) bromide is added to 27.8 g of 7α-(5-bromopentyl)-11β-fluoro-estr-4-ene-3,17-dione in 190 ml of acetonitrile at 80° C. After 8 hours, the reaction mixture is stirred into water, extracted three times with ethyl acetate, washed twice with ammonium chloride, with sodium bicarbonate and common salt, dried and concentrated by evaporation in a vacuum. After the crude product is chromatographed on silica gel with a hexane-ethyl acetate gradient, 20.4 g of 7α-(5-bromopentyl)-11β-fluoro-3-hydroxy-estra-1,3,5(10)-trien-17-one is obtained as colorless crystals with a melting point of 178° C.

reactant | 7α-(5-bromopentyl)-11β-fluoro-estr-4-ene-3,17-dione | 27.8 g | BrCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2[C@H]2CCC(C=C2C1)=O)F)=O | C23H32BrFO2
reactant | water | O | H2O
solvent | acetonitrile | 190 ml | C(C)#N | C2H3N
catalyst | copper(II) bromide | 17.0 g | [Cu](Br)Br
product | 7α-(5-bromopentyl)-11β-fluoro-3-hydroxy-estra-1,3,5(10)-trien-17-one | 20.4 g | BrCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)O)F)=O | C23H30BrFO2
